US07842817B2
1,3-Bis(4-chlorobenzyl)-1,3-dihydrobenzoimidazol-2-ylideneamine
The title compound was prepared from 2-aminobenzimidazole and 4-chlorobenzyl chloride by Procedure A. The product was isolated by preparative LCMS to give the title compound as the free base (white solid, mp 185-187° C.). MS(ES+) m/z 382 (M+, 100). 1NMR (DMSO-d6) δ 5.08 (br s, 4H), 5.76 (s, 1H), 6.80-6.90 (m, 4H), 7.25-7.42 (m, 8H).

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | 1,3-Bis(4-chlorobenzyl)-1,3-dihydrobenzoimidazol-2-ylideneamine | ClC1=CC=C(CN2C(N(C3=C2C=CC=C3)CC3=CC=C(C=C3)Cl)=N)C=C1 | C21H17Cl2N3
